US07582324B2
Following a procedure resembling that of Example 11, a beverage is prepared by first preparing a mixture of about 43 grams of citric anhydride and 957 grams of water to prepare 100 grams of water to provide 1000 grams of 0.25 molar solution of citric acid. Using power mixing, about 90 grams of Corn Starch Solids marketed as C-STAR-DRY GLO 1920 from Cerestar, Cargill Foods, Cedar Rapids, Iowa, 52406-1467. Such dispersion was aged for 15 minutes, and then a mixture consisting of orange flavor, an artificial sweetener, and sodium citrate bugger were added. Using power mixing. A glass electrode pH meter is employed during the terminal stages of adding mixing. A glass electrode pH meter was employed during the terminal stages of adding about 3,000 g. of tap water to prepared about 4000 g of beverage having a pH between 3.2 and 3.5 of liquid.

reactant | citric anhydride | about 43 grams | C1C(=O)OC(=O)C1(CC(=O)O)O | C6H6O6
reactant | water | 100 grams | O | H2O
reactant | water | 957 grams | O | H2O
product | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
